US07648997B2
Phosphorous oxychloride (16.76 g, 10.19 mL, 109.3 mmol) was added slowly dropwise to a suspension of 7-bromo-3-nitro[1,5]naphthyridin-4-ol (21.09 g, 78.1 mmol) in DMF (250 mL) at ambient temperature and stirred for 3 hours. The reaction mixture was then added to ice water (400 mL) with stirring. A solid precipitate formed, which was isolated by vacuum filtration and washed with water. The material was dried under high vacuum at ambient temperature to yield 7-bromo-4-chloro-3-nitro[1,5]naphthyridine as a tan solid.

reactant | Phosphorous oxychloride | 109.3 mmol, 10.19 mL, 16.76 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 7-bromo-3-nitro[1,5]naphthyridin-4-ol | 78.1 mmol, 21.09 g | BrC1=CN=C2C(=C(C=NC2=C1)[N+](=O)[O-])O | C8H4BrN3O3
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
product | 7-bromo-4-chloro-3-nitro[1,5]naphthyridine | BrC1=CN=C2C(=C(C=NC2=C1)[N+](=O)[O-])Cl | C8H3BrClN3O2
